US05486527
3-Diphenylmethylpiperidine Hydrochloride
A solution of 3-diphenylmethylenepiperidine hydrochloride (200 mg, 0.7 mmol) in ethanol (40 ml) was stirred under one atmosphere of hydrogen at 40° C. in the presence of 10% palladium on charcoal (20 mg) for 24 hours and filtered. The filtrate was concentrated to give the title compound (200 mg) as a pale brown gum which was characterised by its 1H-NMR spectrum.

reactant | 3-diphenylmethylenepiperidine hydrochloride | 0.7 mmol, 200 mg | Cl.C1(=CC=CC=C1)C(=C1CNCCC1)C1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | 3-Diphenylmethylpiperidine Hydrochloride | 200 mg | Cl.C1(=CC=CC=C1)C(C1CNCCC1)C1=CC=CC=C1 | InChI=1S/C18H21N.ClH/c1-3-8-15(9-4-1)18(16-10-5-2-6-11-16)17-12-7-13-19-14-17;/h1-6,8-11,17-19H,7,12-14H2;1H
